US05231102
a) Trans-5,7-dichloro-2-methoxycarbonyl-4-methylsulphonylamino-1,2,3,4-tetrahydroquinoline
To a suspension of trans-4-amino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline hydrochloride (0.15 g, 0.482 mmol) in dichloromethane (15 ml) was added triethylamine (0.14 ml, 1.01 mmol) and the mixture was stirred under an atmosphere of nitrogen at room temperature until dissolution was complete. To this solution was added methanesulphonyl chloride (0.039 ml, 0.50 mmol) and the resulting mixture was stirred at room temperature under an atmosphere of nitrogen for 2.5 h. A further portion of methanesulphonyl chloride (0.039 ml, 0.50 mmol) was added and stirring was continued for 2 h after which time more triethylamine (0.07 ml, 0.50 mmol) was added and the mixture was stirred for a further 18 hours. The solvent was removed in vacuo and the residue obtained was partitioned between dilute citric acid solution (50 ml) and ethyl acetate (100 ml). The organic layer was washed with saturated sodium hydrogen carbonate (2×50 ml), brine (1×50 ml), dried (MgSO4) and evaporated to give the title compound as colourless crystals (0.14 g, m.p. 143°-146° C.); δ (250 MHz, CDCl3) 1.69 (1H, m, CHACHBHCCHD), 2.90 (1H, dm, J=13.6 Hz, CHACHBHCCHD), 3.17 (3H, s, --SO2CH3), 3.83 3H, s, CO2CH3), 4.26 (2H, m, CHACHBHCCHD) and CHNHSO2CH3), 4.84 (1H, m, CHACHBHCCHD), 6.57 (1H, d, J=1.9 Hz, 6-H or 8-H), 6.73 (1H, d, J=1.9 Hz, 6-H or 8-H); m/e 353 (M+), 198 (100% M-NHSO2CH3, CO2CH3 and H).

reactant | trans-4-amino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline hydrochloride | 0.482 mmol, 0.15 g | Cl.N[C@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC
reactant | triethylamine | 1.01 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.50 mmol, 0.039 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulphonyl chloride | 0.50 mmol, 0.039 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.50 mmol, 0.07 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Trans-5,7-dichloro-2-methoxycarbonyl-4-methylsulphonylamino-1,2,3,4-tetrahydroquinoline | 0.14 g | ClC1=C2[C@H](C[C@@H](NC2=CC(=C1)Cl)C(=O)OC)NS(=O)(=O)C | C12H14Cl2N2O4S
